*Zhenxin_S_FC

.include "/home/pham/code/analog-ml/AutoCkt/eval_engines/ngspice/ngspice_inputs/spice_models/65nm_bulk.txt"

* Parameters
.param tempc=25.0
.param wm12={{w_m12}}u lm12={{l_m12}}u mm12={{m_m12}}
.param wm3={{w_m3}}u lm3={{l_m3}}u mm3={{m_m3}}
.param wm45={{w_m45}}u lm45={{l_m45}}u mm45={{m_m45}}
.param wm67={{w_m67}}u lm67={{l_m67}}u mm67={{m_m67}}
.param wm89={{w_m89}}u lm89={{l_m89}}u mm89={{m_m89}}
.param wm1011={{w_m1011}}u lm1011={{l_m1011}}u mm1011={{m_m1011}}

.param vbp1={{vbp1}}
.param vbp2={{vbp2}}
.param vbn1={{vbn1}}
.param vbn2={{vbn2}}

.param vdd=1.2
.param vcm=0.6


M3 N004 Vbp1 VDD VDD pmos W={wm3} L={lm3} m={mm3} 
M4 N002 N001 VDD VDD pmos W={wm45} L={lm45} m={mm45}
M5 N003 N001 VDD VDD pmos W={wm45} L={lm45} m={mm45}
M7 Vout Vbp2 N003 N003 pmos W={wm67} L={lm67} m={mm67}
M6 N001 Vbp2 N002 N002 pmos W={wm67} L={lm67} m={mm67}
M1 N006 Vinp N004 N004 pmos W={wm12} L={lm12} m={mm12}
M2 N005 Vinn N004 N004 pmos W={wm12} L={lm12} m={mm12}
M8 N001 Vbn1 N006 N006 nmos W={wm89} L={lm89} m={mm89}
M9 Vout Vbn1 N005 N005 nmos W={wm89} L={lm89} m={mm89}
M10 N006 Vbn2 0 0 nmos W={wm1011} L={lm1011} m={mm1011}
M11 N005 Vbn2 0 0 nmos W={wm1011} L={lm1011} m={mm1011}



vin in 0 dc=0 ac=1.0
ein1 Vinp cm in 0 0.5
ein2 Vinn cm in 0 -0.5
vcm cm 0 dc={vcm}

vdd VDD 0 dc=1.2
vss 0 VSS dc=0
*Ccomp N001 Vout {{cc}}p
Cload Vout 0 {{cl}}p


.ac dec 10 1 10G

.control
run
set units=degrees
set wr_vecnames
option numdgt=7
wrdata {{design_path}}/ac.csv v(Vout)
op
wrdata {{design_path}}/dc.csv i(vdd)
.endc

.end
