*Zhenxin_S_FC

.include "/home/pham/code/analog-ml/AutoCkt/eval_engines/ngspice/ngspice_inputs/spice_models/65nm_bulk.txt"

* Parameters
.param tempc=25.0
.param wm12={{w_m12}}u  lm12=130u mm12=1
.param wm3={{w_m3}}u    lm3=130u mm3=1
.param wm45={{w_m45}}u  lm45=130u mm45=1
.param wm67={{w_m67}}u lm67=130u mm67=1
.param wm89={{w_m89}}u lm89=130u mm89=1
.param wm1011={{w_m1011}}u lm1011=130u mm1011=1

.param vbp1={{vbp1}}
.param vbp2={{vbp2}}
.param vbn1={{vbn1}}
.param vbn2={{vbn2}}

.param vdd=1.2
.param vcm=0.6


M3 N004 Vbp1 VDD VDD pmos W={wm3} L={lm3} m={mm3} 
M4 N002 N001 VDD VDD pmos W={wm45} L={lm45} m={mm45}
M5 N003 N001 VDD VDD pmos W={wm45} L={lm45} m={mm45}
M7 Vout Vbp2 N003 N003 pmos W={wm67} L={lm67} m={mm67}
M6 N001 Vbp2 N002 N002 pmos W={wm67} L={lm67} m={mm67}
M1 N006 Vinp N004 N004 pmos W={wm12} L={lm12} m={mm12}
M2 N005 Vinn N004 N004 pmos W={wm12} L={lm12} m={mm12}
M8 N001 Vbn1 N006 N006 nmos W={wm89} L={lm89} m={mm89}
M9 Vout Vbn1 N005 N005 nmos W={wm89} L={lm89} m={mm89}
M10 N006 Vbn2 0 0 nmos W={wm1011} L={lm1011} m={mm1011}
M11 N005 Vbn2 0 0 nmos W={wm1011} L={lm1011} m={mm1011}



vin in 0 dc=0 ac=1.0
ein1 Vinp cm in 0 0.5
ein2 Vinn cm in 0 -0.5
vcm cm 0 dc={vcm}

vdd VDD 0 dc=1.2
vss 0 VSS dc=0
Ccomp N001 Vout {{cc}}p
Cload Vout 0 1p

VBP1 Vbp1 0 DC {vbp1}
VBP2 Vbp2 0 DC {vbp2}
VBN1 Vbn1 0 DC {vbn1}
VBN2 Vbn2 0 DC {vbn2}

.ac dec 10 1 10G

.control
run
set units=degrees
set wr_vecnames
option numdgt=7
wrdata {{design_path}}/ac.csv v(Vout)
op
wrdata {{design_path}}/dc.csv i(vdd)
.endc

.end
